US07396835B2
[5-Chloro-6-(2,4,6-trifluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyrimidin-7-yl]-((1S)-2,2,2-trifluoro-1-methyl-ethyl)-amine
To a solution of 5,7-dichloro-6-(2,4,6-trifluorophenyl)-[1,2,4]triazolo[1,5-a]-pyrimidine (200 g, 0.627 mol) in anhydrous DMF (1000 mL) is added (S)-2,2,2-trifluoro-1-methyl-ethylamine (177 g, 1.57 mol). The solution is stirred from about 20° C. to about 30° C. for 24 h. The reaction mixture is added to cold water (3000 mL) slowly over 30 min. The mixture is stirred for 30 min at 10-20° C. The solid product is filtered and washed with water (2×500 mL). The crude product is dissolved into IPA (1000 mL) at 50° C. Water (2000 mL) is added to precipitate the product over 30 min. The mixture is cooled to 0° C. over 1 h and stirred for 1 h at this temperature. The solid is filtered and dried at 65° C./10 mmHg for 20 h to give a light yellow solid (204 g, 82%, 98% HPLC area purity and 99% ee).

reactant | 5,7-dichloro-6-(2,4,6-trifluorophenyl)-[1,2,4]triazolo[1,5-a]-pyrimidine | 0.627 mol, 200 g | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)Cl)N=CN2 | C11H3Cl2F3N4
reactant | (S)-2,2,2-trifluoro-1-methyl-ethylamine | 1.57 mol, 177 g | FC([C@H](C)N)(F)F | C3H6F3N
reactant | water | 3000 mL | O | H2O
solvent | DMF | 1000 mL | CN(C)C=O | C3H7NO
product | [5-Chloro-6-(2,4,6-trifluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyrimidin-7-yl]-((1S)-2,2,2-trifluoro-1-methyl-ethyl)-amine | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)N[C@H](C(F)(F)F)C)N=CN2 | C14H8ClF6N5
